US07459263B2
Finally, 3-methoxythioxanthen-9-one (S-18) was prepared. To a mixture of 2-(3-methoxyphenylthio)benzoic acid (4.60 g, 18 mmol) and 27 g (265 mmol) of acetic anhydride was added dropwise 1.70 g (18 mmol) of methanesulfonic acid. The mixture was heated at reflux for 2 h, cooled to ambient, and poured very slowly onto 250 g of ice. The crude product was extracted with dichloromethane, and the extract was washed with 10% aqueous NaHCO3 and then with brine. The solution was dried (MgSO4), passed through a short column of silica gel, and concentrated to deposit an orange solid. The product was purified by successive recrystallizations from toluene/heptane and from isopropanol to provide 1.57 g (37% of theory) of a yellow powder. 1H NMR (CDCl3): δ 3.91 (s, 3H), 6.95 (d, 1H), 7.01 (dd, 1H), 7.4-7.6 (m, 3H), 8.55 (d, 1H), 8.59 (d, 1H).

reactant | 2-(3-methoxyphenylthio)benzoic acid | 18 mmol, 4.60 g | COC=1C=C(C=CC1)SC1=C(C(=O)O)C=CC=C1 | C14H12O3S
reactant | acetic anhydride | 265 mmol, 27 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanesulfonic acid | 18 mmol, 1.70 g | CS(=O)(=O)O | CH4O3S
product | 3-methoxythioxanthen-9-one | COC=1C=CC=2C(C3=CC=CC=C3SC2C1)=O | C14H10O2S
